US07776857B2
A RBF was charged with 4-aminothiophenol (161 mg, 1.285 mmol), 8-chloro-3-methoxy-1,5-naphthyridine (250 mg, 1.285 mmol) and 5.2 mL of DMF, and the mixture was stirred at RT for 45 min. The orange, heterogeneous mixture was diluted with EtOAc and washed with 1N NaHCO3. The aqueous portion was extracted two additional times with EtOAc and the combined organics were dried with MgSO4, filtered and concentrated. The crude oil was concentrated twice from toluene to remove DMF and the resulting solids were dried under high vacuum to provide 4-(7-methoxy-1,5-naphthyridin-4-ylthio)benzenamine as a tan solid. MS m/z=284 [M+H]+. Calc'd for C15H13N3OS: 283.35.

reactant | 4-aminothiophenol | 1.285 mmol, 161 mg | NC1=CC=C(C=C1)S | C6H7NS
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 1.285 mmol, 250 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | DMF | 5.2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(7-methoxy-1,5-naphthyridin-4-ylthio)benzenamine | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)N | C15H13N3OS
